US05385910
1-(9H-Fluoren-9-ylmethoxycarbonylamino)-cyclohexane carboxylic acid
To a chilled (ice bath) suspension of aminocyclohexanecarboxylic acid (2.51 g, 17.5 mmol) in alumina-filtered dioxane (17 mL) were added 10% Na2CO3 (35 mL) and a solution of 9-fluorenylmethylchloroformate (4.57 g, 17.7 mmol) in 26 mL of dioxane (added slowly). The reaction mixture was allowed to warm to about 20° C. and stirred overnight under N2. The reaction mixture was poured into ~300 mL of ice water and washed with anhydrous ether (some product went into the ether layer). The aqueous layer was chilled in an ice bath and acidified with concentrated hydrochloric acid to pH about 2. The aqueous layer was then extracted with ethyl acetate (3×100 mL). The combined ethyl acetate layers were washed with 0.1N HCl and H2O. The ether and ethyl acetate layers were dried over anhydrous MgSO4, combined and concentrated. The resulting compound was flash chromatographed with a gradient of 40-50% EtOAc/Hexane to yield 0.383 g (1.05 mmol, 6.0% yield) of the title compound as a white foam DEI M+@m/z=365.

reactant | aminocyclohexanecarboxylic acid | 17.5 mmol, 2.51 g | NC1(CCCCC1)C(=O)O | C7H13NO2
reactant | 9-fluorenylmethylchloroformate | 17.7 mmol, 4.57 g | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(=O)Cl | C15H11ClO2
solvent | dioxane | 26 mL | O1CCOCC1 | C4H8O2
product | 1-(9H-Fluoren-9-ylmethoxycarbonylamino)-cyclohexane carboxylic acid | 1.05 mmol, 0.383 g, 6.0% yield | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(=O)NC1(CCCCC1)C(=O)O | C22H23NO4
